US04647584
A mixture of 3-methyl-4-hydroxy-5-n-propylaniline (1.65 g) and ethyl acetate (20 ml) was added to an ethyl acetate solution containing 10 g of phosgene at 0° to 5° C. The resulting mixture was gradually heated and, after the solution became clear, cooled to room temperature. The solvent was removed by distillation under reduced pressure to give 3-methyl-4-hydroxy-5-n-propylphenyl isocyanate. the thus obtained crude substance was added to a toluene solution (50 ml) containing triethylamine (1.0 g) and isopropanol (1.0 g). The resultant mixture was allowed to stand at room temperature for 12 hours, poured into ice-water and extracted with ethyl acetate. The extract was washed with dilute hydrochloric acid and water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using a mixture of toluene and ethyl acetate as the eluent to give isopropyl N-(3-methyl-4-hydroxy-5-n-propylphenyl)carbamate (1.70 g). Sodium hydride (0.28 g, 60% dispersion in mineral oil) was added to dimethylformamide (50 ml). To the resulting mixture was added isopropyl N-(3-methyl-4-hydroxy-5-n-propylphenyl)carbamate (1.70 g) under 5° C. The resulting solution was stirred at a temperature of 20° C. for 30 minutes, and (chloromethyl)methylsulfide (0.67 g) was added thereto in 5 minutes. The mixture was heated at 90° C. for 10 minutes, poured into ice-water and extracted with ethyl acetate. The extract was washed with aqueous potassium carbonate solution and water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using a mixture of toluene and ethyl acetate as the eluent to give isopropyl N-(3-methyl-4-methylthiomethyloxy-5-n-propylphenyl)carbamate (Compound No. 14) (1.90 g) in a yield of 61.0%. nD21.4

reactant | 3-methyl-4-hydroxy-5-n-propylaniline | 1.65 g | CC=1C=C(N)C=C(C1O)CCC | C10H15NO
reactant | phosgene | 10 g | C(=O)(Cl)Cl | CCl2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 3-methyl-4-hydroxy-5-n-propylphenyl isocyanate | CC=1C=C(C=C(C1O)CCC)N=C=O | C11H13NO2
